US07411072B2
N-[5-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methoxy-phenyl]-methanesulfonamide
Following procedures essentially as described in Example 90-, 5-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methoxy-phenylamine and methanesulfonyl chloride gives the title compound in 77% yield as a tan foam, mp 192.1° C. 1H NMR (CDCl3) δ 2.74 (s, 3H), 2.80-4.61 (br m, 4H), 4.81 (s, 3H), 6.67-7.50 (m, 13H); MS (ES) 423 (M+NH4), 404 (M−H). HPLC shows 100% purity.

reactant | 5-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methoxy-phenylamine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=CC(=C(C3)N)OC | C23H21NO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[5-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methoxy-phenyl]-methanesulfonamide | 77% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=CC(=C(C3)NS(=O)(=O)C)OC | C24H23NO3S
